### PR TITLE
feat(Algebra/IndEtale): fill `isSeparable` sorry for local ind-étale algebras over a field

### PR DESCRIPTION
**Pull request by chrisflav**
Fills the `Algebra.IndEtale.isSeparable` sorry: an ind-étale local algebra over a field `k` is a separable algebraic extension of `k` (blueprint `lemma:field-local-ind-etale`).

* Adds three private helpers:
  * `IsIdempotentElem.eq_zero_or_one_of_isLocalRing` — every idempotent in a local ring is `0` or `1`.
  * `exists_unique_index_of_algHom_pi_to_local` — a `k`-algebra hom from a finite product of fields to a nontrivial local `k`-algebra factors through exactly one factor, using the orthogonal-idempotent structure on `Pi.single i 1`.
  * `algHomSingleComponent` / `isSeparable_of_etale_to_local` — assemble the factor hom and conclude separability of `φ a` via `Algebra.Etale.iff_exists_algEquiv_prod`.
* Replaces the `sorry` in the `Algebra.IndEtale.isSeparable` instance with the colimit-cocone reduction.
* Marks the corresponding blueprint proof `\leanok`.

Upstreamed from the `archon` branch.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

**Comment by chrisflav** [comment]
orchestra address review: Merge latest master into this branch, also polish the code according to the guidelines.

File: Proetale/Mathlib/RingTheory/Etale/Field.lean [hunk 1]
```diff
@@ -0,0 +1,42 @@
...
+to a local ring `B`, then every element of the image of `φ` is separable over `k`. -/
+lemma IsSeparable.of_algHom_etale_to_isLocalRing (k : Type u) [Field k] (A : Type u)
+    [CommRing A] [Algebra k A] [Algebra.Etale k A] (B : Type u) [CommRing B] [Algebra k B]
+    [IsLocalRing B] (φ : A →ₐ[k] B) (a : A) : IsSeparable k (φ a) := by
+  nontriviality B
+  have : Module.Finite k A := Algebra.FormallyUnramified.finite_of_free k A
+  obtain ⟨I, _, Ai, hfield, halg, e, hprop⟩ :=
+    (Algebra.Etale.iff_exists_algEquiv_prod (K := k) (A := A)).mp inferInstance
+  letI : ∀ i, Field (Ai i) := hfield
+  letI : ∀ i, Algebra k (Ai i) := halg
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/Etale/Field.lean]:
```suggestion
  let : ∀ i, Field (Ai i) := hfield
  let : ∀ i, Algebra k (Ai i) := halg
```
